data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_333201_1,[C:1]([N:3]([H:10])[H:11])([O:5][H:8])([O:6][H:9])/[N:7]=[C:4](\[C:2]([H:13])([H:14])[H:15])[H:12]>>[C:1](\[N:3]([H:10])[H:11])([O:5][H:8])=[N:7]\[C:4]([C:2]([H:13])([H:14])[H:15])([O:6][H:9])[H:12],54.46323499999849
MR_420566_1,[C:1]([C:2]([C:3]([O:7][H:13])=[O:9])=[O:8])([O:4][H:10])([O:5][H:11])[O:6][H:12]>>[C:1]([C:2]([C:3]([O:7][H:13])=[O:9])([O:6][H:12])[O:8][H:10])(=[O:4])[O:5][H:11],33.234909999983984
MR_504333_2,[C:1]1(/[C:4]([O:6][H:8])=[N:7]/[H:10])([H:9])[N:3]([C:2]([H:11])([H:12])[H:13])[O:5]1>>[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])/[C:4]([O:6][H:8])=[N:7]/[H:10])(=[O:5])[H:9],49.56497000002386
MR_617649_1,[C:1]([N:3]([N:2](/[C:4]([N:5]([H:11])[H:12])=[N:7]/[O:6][H:8])[H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:3]1[N:2]([H:9])[C@@:4]1([N:5]([H:11])[H:12])[N:7]([O:6][H:8])[H:10])([H:13])([H:14])[H:15],61.473037500028056
MR_419674_2,[C:1](/[C:2]([N:3]([H:8])[H:9])=[N:7]\[O:6][C:4](=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:2](=[N:3]\[H:9])[N:7]1[C:4]([C:5]([H:8])([H:14])[H:15])([H:10])[O:6]1)([H:11])([H:12])[H:13],60.31467250002777
MR_398354_1,[C@@:1]1([O:5][C:3]([N:4]([H:10])[H:11])=[O:8])([O:7][H:9])[C:2]([H:12])([H:13])[O:6]1>>[C:1](=[O:5])([O:6][C:2]([C:3]([N:4]([H:10])[H:11])=[O:8])([H:12])[H:13])[O:7][H:9],65.38800999998841
MR_358939_0,[C:1](/[C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[N:6]/[N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[N:4]([H:8])[H:9])[N:6]([N:5]([H:10])[H:11])[H:7])([H:12])([H:13])[H:14],45.23145499997881
MR_514768_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([O:6][H:8])[O:7][H:9])([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])[H:11]>>[C@@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])[O:6][H:8])([O:7][H:9])[H:11],72.53586250002613
MR_604133_0,[C:1]([N:4]([H:11])[H:12])(/[C:5](=[C:3](/[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[H:13])([O:6][H:8])[H:10]>>[C:1]1([O:6][H:8])([H:10])[C:3]([C:2]([H:14])([H:15])[H:16])([O:7][H:9])[C:5]1([N:4]([H:11])[H:12])[H:13],65.0955950000133
MR_8513_1,[C:1]([C:2]([N:6]=[C:4]([H:13])[H:14])([H:11])[H:12])([N:3]([H:9])[H:10])([O:5][H:7])[H:8]>>[C:1]1([O:5][H:7])([H:8])[C:2]([H:11])([H:12])[N:6]1[C:4]([N:3]([H:9])[H:10])([H:13])[H:14],66.92977750001944
MR_8323_0,[C:1]([N:2]([H:7])[H:8])([O:5][C:3](=[C:4]([H:10])[H:11])[H:9])=[O:6]>>[C:1]([N:2]([H:7])[H:8])(=[O:5])[O:6][C:3](=[C:4]([H:10])[H:11])[H:9],49.96845250000391
MR_392598_0,[N:1]([N:4][N:5][N:2]([H:8])[H:9])([N:6]=[C:3]([H:10])[H:11])[H:7]>>[N:1]([N:4][N:5]([N:2]([H:8])[H:9])[N:6]=[C:3]([H:10])[H:11])[H:7],59.53908249998847
MR_156135_0,[C:1]([C:4]([C:2]([H:10])([H:14])[H:15])=[C:5]([N:3]([O:6][H:7])[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:10])([H:14])[H:15])(/[C:5](=[N:3]\[H:8])[H:9])[O:6][H:7])([H:11])([H:12])[H:13],41.98351500001081
MR_462070_1,[C:1]([C:2]([O:6][H:9])=[O:8])([O:5]/[C:3]([N:4]([H:10])[H:11])=[N:7]/[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:3]([N:4]([H:10])[H:11])([N:7]([C:2]([O:6][H:9])=[O:8])[H:12])[O:5]1,71.3166299999655
MR_249561_0,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:7][H:9])([C:6](=[O:8])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@:4]([C:2]([H:13])([H:14])[H:15])([O:7][H:9])[C@@:5]1([C:3]([H:16])([H:17])[H:18])[C:6](=[O:8])[H:10],69.97566250003388
MR_609555_0,[C:1](/[C:2]([N:4]([H:13])[H:14])=[N:7]/[N:3]([H:11])[H:12])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1](=[C:2]([N:4]([H:13])[H:14])[N:7]([N:3]([H:11])[H:12])[H:10])([O:5][H:8])[O:6][H:9],69.51319499998874
MR_567988_1,[C:1]1([H:5])([H:6])[N:2]([H:4])[O:3]1>>[C:1](=[N:2][O:3][H:4])([H:5])[H:6],54.66340749997464
MR_544857_0,[C:1](=[N:5]/[H:14])(\[O:6][C:2]([C:4]([C:3]([O:7][H:11])=[O:9])([O:8][H:12])[O:10][H:15])([H:16])[H:17])[H:13]>>[C:1]([C:3]([O:7][H:11])=[O:9])([N:5]([H:14])[H:15])([O:6][C:2]([C:4]([O:8][H:12])=[O:10])([H:16])[H:17])[H:13],42.87142749998054
MR_249664_1,[C:1]1([N:4]([C:3]([H:13])([H:14])[H:15])[H:8])([H:9])[C:2]([H:11])([H:12])[N:7]=[C:5]([H:10])[O:6]1>>[C:1]([C:2](/[N:7]=[C:5](\[N:4]([C:3]([H:13])([H:14])[H:15])[H:8])[H:10])([H:11])[H:12])(=[O:6])[H:9],67.30815999999152
MR_286445_1,[C:1]([N:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])/[N:8]=[C:6](\[C:3]([H:17])([H:18])[H:19])[O:7][H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[N:8]/[C:6]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[O:7][H:10])([H:11])([H:12])[H:13],54.43625249999528
MR_363106_0,[C:1]([C:3]12[N:2]([H:7])[N:4]([N:5]1[H:8])[N:6]2[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[N:2]\[H:7])[N:6](/[N:4]=[N:5]/[H:8])[H:9])([H:10])([H:11])[H:12],26.5689775000493
MR_86450_0,[C:1](/[C:6](=[C:3](/[N:2]([N:4]([H:8])[H:9])[H:7])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:7])[H:12])([H:13])([H:14])[H:15],48.383387500010855
